US09062055B2
Step 3. 3-Cyano-1-(3-fluorophenyl)-1H-indole-2-carboxylic acid
Methyl 3-cyano-1-(3-fluorophenyl)-1H-indole-2-carboxylate (0.13 g, 0.44 mmol) was treated with 1.0 M lithium hydroxide in water (0.66 mL, 0.66 mmol) in methanol (3 mL) at room temperature for 3 hours. The reaction was diluted with 1 N HCl and extracted with EtOAc. The extracts were combined, washed with brine, dried over MgSO4 and concentrated to give the desired acid (0.12 g, 97%). LCMS calculated for C16H10FN2O2(M+H)+: m/z=281.1. Found: 281.1.

reactant | Methyl 3-cyano-1-(3-fluorophenyl)-1H-indole-2-carboxylate | 0.44 mmol, 0.13 g | C(#N)C1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)F)C(=O)OC | C17H11FN2O2
reactant | lithium hydroxide | 1.0 M | [OH-].[Li+]
reactant | water | 0.66 mmol, 0.66 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
solvent | HCl | 1 N | Cl | ClH
product | 3-Cyano-1-(3-fluorophenyl)-1H-indole-2-carboxylic acid | 0.12 g, 97% | C(#N)C1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)F)C(=O)O | C16H9FN2O2
